US07745438B2
{(S)-2-benzyloxy-1-[1-(2,2-dimethylpropoxy)-2-iodoethoxymethyl]-ethyl}-carbamic acid tert-butyl ester
Add N-iodosuccinimide (14.19 g, 74.63 mmol) to ((R)-2-benzyloxy-1-hydroxymethylethyl)-carbamic acid tert-butyl ester (15.00 g, 53.30 mmol) and 2,2-dimethyl-1-vinyloxypropane (9.13 g, 79.96 mmol) in acetonitrile (267 mL) at room temperature. Heat to 60° C. under nitrogen for 2 hours. Cool to room temperature and dilute with ethyl acetate. Wash with water and saturated aqueous sodium chloride. Dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 0:100 to 10:90 ethyl acetate:hexanes) to give the desired compound as an oil (23.4 g 84.2%).

reactant | N-iodosuccinimide | 74.63 mmol, 14.19 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | ((R)-2-benzyloxy-1-hydroxymethylethyl)-carbamic acid tert-butyl ester | 53.30 mmol, 15.00 g | C(C)(C)(C)OC(N[C@@H](COCC1=CC=CC=C1)CO)=O | C15H23NO4
reactant | 2,2-dimethyl-1-vinyloxypropane | 79.96 mmol, 9.13 g | CC(COC=C)(C)C | C7H14O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 267 mL | C(C)#N | C2H3N
product | {(S)-2-benzyloxy-1-[1-(2,2-dimethylpropoxy)-2-iodoethoxymethyl]-ethyl}-carbamic acid tert-butyl ester | 23.4 g, 84.2% | C(C)(C)(C)OC(N[C@@H](COCC1=CC=CC=C1)C(OCC(C)(C)C)OCCI)=O | C22H36INO5
